US07214802B2
A suspension of 64.5 g (253 mmol) of 1,1-dimethyl-4-oxo-piperidinium iodide in 50 mL of water and 90 mL (860 mmol) of tert-butylamine was stirred for 15 min when 1.0 mL of 40% Triton B in MeOH was added. The mixture was refluxed for 2 hr under N2, and then it was extracted with Et2O (4×100 mL). The aqueous phase was basified with 20 g of NaOH in 20 mL of water, and then it was extracted further with Et2O (4×100 mL). The combined organic extracts were washed with brine, dried over MgSO4, filtered, and concentrated. The residual oil was shaken with 1.5 L of petroleum ether, which was decanted and concentrated. The residue was distilled under vacuum to provide 1.8 g of 1-tert-butyl-piperid-4-one.

reactant | 1,1-dimethyl-4-oxo-piperidinium iodide | 253 mmol, 64.5 g | [I-].C[N+]1(CCC(CC1)=O)C
reactant | tert-butylamine | 860 mmol, 90 mL | C(C)(C)(C)N | C4H11N
solvent | water | 50 mL | O | H2O
solvent | MeOH | CO | CH4O
product | 1-tert-butyl-piperid-4-one | 1.8 g | C(C)(C)(C)N1CCC(CC1)=O | C9H17NO
